US07795249B2
A mixture of ethyl 5-(2-{[(tert-butoxycarbonyl)-amino]methyl}phenyl)thiophene-2-carboxylate (2.05 g, 5.67 mmol) and lithium hydroxide (0.679 g, 28.4 mmol) in water (20 mL) and ACN (20 mL) was allowed to stir at rt for 24 h. The reaction mixture was diluted with EtOAc and 1N KHSO4. The organic solution was removed and the aqueous mixture was extracted with EtOAc. The organic solutions were combined, dried over Na2SO4, filtered, and concentrated. The residue was dried under vacuum to give 5-(2-{[(tert-butoxycarbonyl)amino]methyl}phenyl)thiophene-2-carboxylic acid (1.71 g, 90%) as a white solid which was used without purification. LCMS: (FA) ES-332.3.

reactant | ethyl 5-(2-{[(tert-butoxycarbonyl)-amino]methyl}phenyl)thiophene-2-carboxylate | 5.67 mmol, 2.05 g | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)C1=CC=C(S1)C(=O)OCC | C19H23NO4S
reactant | lithium hydroxide | 28.4 mmol, 0.679 g | [OH-].[Li+]
solvent | water | 20 mL | O | H2O
solvent | ACN | 20 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | KHSO4 | 1N | OS(=O)(=O)[O-].[K+]
product | 5-(2-{[(tert-butoxycarbonyl)amino]methyl}phenyl)thiophene-2-carboxylic acid | 1.71 g, 90% | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)C1=CC=C(S1)C(=O)O | C17H19NO4S
